US08809339B2
N-(5-(3,4-dimethylphenyl)pyrazin-2-yl)-2-nitro-5-(piperidin-1-yl)-benzamide
Into a 250-mL round bottom flask, was placed a solution of 5-chloro-N-(5-(3,4-dimethylphenyl)pyrazin-2-yl)-2-nitrobenzamide (3.66 g, 9.56 mmol, 1.00 equiv) in N,N-dimethylformamide (80 mL), piperidine (3.8 g, 44.71 mmol, 4.70 equiv), and potassium carbonate (3.96 g, 28.70 mmol, 3.00 equiv). The resulting solution was stirred for about 8 h at 85° C. in an oil bath. The reaction was then quenched with 450 mL of water. The resulting solution was extracted with 3×300 mL of ethyl acetate and the organic layers combined, dried over anhydrous sodium sulfate, and concentrated under vacuum. This resulted in 3.86 g (crude) of N-(5-(3,4-dimethylphenyl)pyrazin-2-yl)-2-nitro-5-(piperidin-1-yl)benzamide as a yellow solid.

reactant | 5-chloro-N-(5-(3,4-dimethylphenyl)pyrazin-2-yl)-2-nitrobenzamide | 9.56 mmol, 3.66 g, 1.00 equiv | ClC=1C=CC(=C(C(=O)NC2=NC=C(N=C2)C2=CC(=C(C=C2)C)C)C1)[N+](=O)[O-] | C19H15ClN4O3
reactant | piperidine | 44.71 mmol, 3.8 g, 4.70 equiv | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 28.70 mmol, 3.96 g, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | N-(5-(3,4-dimethylphenyl)pyrazin-2-yl)-2-nitro-5-(piperidin-1-yl)-benzamide | CC=1C=C(C=CC1C)C=1N=CC(=NC1)NC(C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-])=O | C24H25N5O3
